US05134128
1-Bromo-8-(thiophen-2-yl)octane
To a stirring mixture of 8-(thiophen-2-yl)-octan-1-ol (0.132 g, 0.622 mmol) and triethylamine (0.126 g, 1.245 mmol) in methylene chloride (5 ml) at 0° under argon was added methanesulfonyl chloride (0.107 g, 0.933 mmol). After stirring for 2 hours at 0° the reaction was quenched with water and the organic layer was washed with 10% hydrochloric acid, saturated sodium bicarbonate, water, saturated sodium chloride solution, dried over magnesium sulfate, filtered and concentrated to give a pale oil. To this oil in acetone (2 ml) was added lithium bromide (0.216 g, 2.49 mmol) and the mixture was refluxed for 15 hours. The acetone was evaporated and the residue was taken up in ethyl ether, washed with 10% hydrochloric acid, saturated sodium bicarbonate, water, saturated sodium chloride, dried over magnesium sulfate, filtered through silica and concentrated to give the title compound which was carried on without further purification.

reactant | 8-(thiophen-2-yl)-octan-1-ol | 0.622 mmol, 0.132 g | S1C(=CC=C1)CCCCCCCCO | C12H20OS
reactant | triethylamine | 1.245 mmol, 0.126 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.933 mmol, 0.107 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | lithium bromide | 2.49 mmol, 0.216 g | [Br-].[Li+]
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | acetone | 2 ml | CC(=O)C | C3H6O
product | 1-Bromo-8-(thiophen-2-yl)octane | BrCCCCCCCCC=1SC=CC1 | C12H19BrS
